Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:12]([C:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14]>>[H:1][C:2]1[C:3](=[C:4]([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-1.43134057652
[C:1]#[C:2][C:8]#[C:3][C:4]([H:5])=[C:6][H:7]>>[C:1][C:2]1=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]1,1.33480578025
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]#[C:10][H:11],-4.64836073048
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.10369495143
[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.78091368521
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11],4.60651465864
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-0.18133901511
[H:1][C:2][O:3][O:4][H:5]>>[H:1][C:2].[O:3][O:4][H:5],5.737557582819999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11],5.97938120493
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[O:1],4.11006149
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-3.94069026774
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]=[C:7]([H:8])[H:9],1.77145988345
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8][O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-2.31919314555
[H:1][O:2]/[C:3]([H:4])=[C:6]([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.7007666869799998
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2],5.4195935397
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9],8.426732841729999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:5]([H:6])([H:7])[O:8][H:9].[H:1][C:2]#[C:3][H:4],1.23714841299
[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.82995205605
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C@@:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])[H:19].[H:20],4.56065520792
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-2.9491733689599995
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:10][H:11]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11],-2.65958699003
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-5.19290622732
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.55282582764
[C:7]([H:8])([H:9])[O:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-5.86678520689
[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2]>>[O:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.19995719224
[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.8452224818
[C:2]([C:3]=[O:5])([H:4])([H:6])[H:10].[O:1]([C:7][H:8])[H:9]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.67489374859
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7],3.18798451754
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C:5]([H:4])([H:10])[H:11].[O:6]([H:7])[C:8][H:9],5.12923081
[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.9053647948800005
